US06469002B1
1-(3-Hydroxypropyl)-2-imidazolidinylidenepropanedinitrile (Compound (VIa)):
In 10 ml of methylene chloride was dissolved 10.4 g of N-(2-aminoethyl)propanolamine, and the solution was added to 15.0 g of [bis(methylthio)methylene]propanedinitrile. The mixture was allowed to stand at room temperature for 1 hour under reduced pressure. Diisopropyl ether was added to the mixture, and the solid was collected by filtration. The crystals were purified by silica gel column chromatography (chloroform:methanol=5:1) to give 15.0 g (87%) of Compound (VIa) as pale yellow crystals.

reactant | N-(2-aminoethyl)propanolamine | 10.4 g | C(CNCCN)CO | C5H14N2O
reactant | [bis(methylthio)methylene]propanedinitrile | 15.0 g | CSC(SC)=C(C#N)C#N | C6H6N2S2
reactant | Diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-(3-Hydroxypropyl)-2-imidazolidinylidenepropanedinitrile | 15.0 g, 87% | C1CN(C(=C(C#N)C#N)N1)CCCO | C9H12N4O
